US06350749B1
A mixture of 5-(2-methylphenyl)cyclohexane-1,3-dione (1.0 g) and ammonium acetate (0.42 g) in ethanol (20 ml) was stirred at room temperature for 15 minutes. To the mixture was added 3-butyn-2-one (0.54 g), and the mixture was refluxed for 16 hours. Under reduced pressure, the solvent was evaporated, and the residue was dissolved in ethyl acetate. The solution was washed with sodium hydrogen carbonate solution, water and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure, and the residue was purified with silica gel column chromatography (EtOAc/hexane) to give colorless crystals of 2,4-dimethyl-7-(2-methylphenyl)-5,6,7,8-tetrahydroquinolin-5-one (0.50 g).

reactant | 5-(2-methylphenyl)cyclohexane-1,3-dione | 1.0 g | CC1=C(C=CC=C1)C1CC(CC(C1)=O)=O | C13H14O2
reactant | ammonium acetate | 0.42 g | C(C)(=O)[O-].[NH4+]
reactant | 3-butyn-2-one | 0.54 g | CC(C#C)=O | C4H4O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2,4-dimethyl-7-(2-methylphenyl)-5,6,7,8-tetrahydroquinolin-5-one | 0.50 g | CC1=NC=2CC(CC(C2C(=C1)C)=O)C1=C(C=CC=C1)C | C18H19NO
